US06143764
4-Hydroxyphenyl 3,4-methylenedioxyphenyl ketone
4-Tri-n-butyltin-1-methoxymethylphenol (1.282 g) obtained in Example 22 and commercially available piperonyloyl chloride (664 mg) were dissolved in chloroform (5 ml), commercially available bis(triphenylphosphine)palladium(II) chloride (8 mg) was added, and the admixture was refluxed with heat overnight. The reaction mixture was partitioned in the same manner as described in Example 23, and the resulting ether layer was dried with anhydrous magnesium sulfate. After removing the solvent by reduced-pressure distillation, the resulting residue (1.030 g) was dissolved in tetrahydrofuran (2 ml), water (5 ml) and 6 N aqueous hydrochloric acid (12 ml) were added, and the admixture was refluxed with heat 10.5 hours. The reaction mixture was treated in the same manner as described in Example 123 to obtain 212 mg of the title compound (yield: 29%).

reactant | piperonyloyl chloride | 664 mg | C(C1=CC=2OCOC2C=C1)(=O)Cl | C8H5ClO3
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | bis(triphenylphosphine)palladium(II) chloride | 8 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-Hydroxyphenyl 3,4-methylenedioxyphenyl ketone | 212 mg, yield: 29% | C1OC=2C=C(C=CC2O1)C(=O)C1=CC=C(C=C1)O | C14H10O4
